US07714010B2
N-[5-(3-Fluoro-4-hydroxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide
N-[5-(3-Fluoro-4-methoxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide (105 mg) is suspended in a BBr3 solution in CH2Cl2 (1 M; 700 μl) and stirred at RT for 18 h. After addition of hydrochloric acid (400 μl; 1 N) the mixture is stirred at RT for another 1 h and then evaporated to dryness. The crude material is purified by preparative RP-HPLC, eluted with MeCN/water to yield the desired compound (25 mg).

reactant | N-[5-(3-Fluoro-4-methoxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 105 mg | FC=1C=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CC=CC=C4)=O)(C)C)=O)C=CC1OC | C26H23FN4O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 1 N, 400 μl | Cl | ClH
solvent | CH2Cl2 | 1 M, 700 μl | C(Cl)Cl | CH2Cl2
product | N-[5-(3-Fluoro-4-hydroxy-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 25 mg | FC=1C=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CC=CC=C4)=O)(C)C)=O)C=CC1O | C25H21FN4O3
